US07923450B2
c) 2-(Morpholine-4-carbonyl)-cyclohexanone
To a solution of (1,4-dioxa-spiro[4.5]dec-6-yl)-morpholin-4-yl-methanone (59 mg, 0.23 mmol) in 60% aqueous ethanol (1.1 mL) were added 2 drops of conc. sulfuric acid (20 uL) and the mixture was heated to 80° C. for 2 h. The mixture was cooled to 20° C., diluted with ethyl acetate (20 mL) and washed with saturated aqueous sodium carbonate solution (10 mL), and with brine (10 mL). The organic layer was dried over sodium sulfate and evaporated under reduced pressure to give the title compound (17 mg, 35%) as a white solid. MS ISP (m/e): 211.9 (100) [(M+H)+].

reactant | (1,4-dioxa-spiro[4.5]dec-6-yl)-morpholin-4-yl-methanone | 0.23 mmol, 59 mg | O1CCOC12C(CCCC2)C(=O)N2CCOCC2 | C13H21NO4
solvent | ethanol | 1.1 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Morpholine-4-carbonyl)-cyclohexanone | 17 mg, 35% | N1(CCOCC1)C(=O)C1C(CCCC1)=O | C11H17NO3
